US06268354B1
In xylene (450 ml) was dissolved 7-methoxy-1-tetralone (50.0 g) under argon atmosphere. To the mixture was added aluminum chloride (75.7 g), and the mixture was refluxed for 4.5 hours. The mixture was cooled to room temperature. To the mixture was added 3N hydrochloric acid (500 ml), and the mixture was extracted with ethyl acetate. The organic layer was separated and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate) to give 7-hydroxy-1-tetralone (36.4 g) as dark green crystals.

reactant | 7-methoxy-1-tetralone | 50.0 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | aluminum chloride | 75.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 3N, 500 ml | Cl | ClH
solvent | xylene | 450 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-hydroxy-1-tetralone | 36.4 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
